### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): global sections of inverse limits of schemes

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 1]
```diff
@@ -89,6 +89,33 @@ lemma Scheme.nonempty_of_isLimit [IsCofilteredOrEmpty I]
     exact this.map (((Functor.Initial.isLimitWhiskerEquiv (Over.forget i) c).symm hc).lift
         ((Cones.postcompose α).obj c'.1)).base
 
+instance {I : Type*} [Category I] (D : I ⥤ Scheme) [∀ i, IsAffine (D.obj i)] :
+    PreservesLimit D Scheme.Γ.rightOp := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]: If you merge master, this one and the next one can be removed.

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 2]
```diff
@@ -89,6 +89,33 @@ lemma Scheme.nonempty_of_isLimit [IsCofilteredOrEmpty I]
...
+  exact preservesLimit_of_natIso (F := 𝟭 _) _ (NatIso.op Scheme.SpecΓIdentity)
+
+instance {I : Type*} [Category I] (D : I ⥤ Schemeᵒᵖ) [∀ i, IsAffine (D.obj i).unop] :
+    PreservesColimit D Scheme.Γ :=
+  have : ∀ i, IsAffine (D.leftOp.obj i) := by dsimp; infer_instance
+  preservesColimit_of_rightOp _ _
+
+include hc in
+lemma Scheme.isAffine_of_isLimit [∀ i, IsAffine (D.obj i)] :
+    IsAffine c.pt := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]: Could you please move this somewhere earlier? Probably just in `AlgebraicGeometry.Limits`?

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 3]
```diff
@@ -162,6 +189,117 @@ lemma exists_mem_of_isClosed_of_nonempty'
...
+  by_contra! H
+  obtain ⟨s, hs⟩ := exists_mem_of_isClosed_of_nonempty' D c hc (fun j f ↦ (D.map f ⁻¹ᵁ U)ᶜ)
+    (fun j f ↦ (D.map f ⁻¹ᵁ U).2.isClosed_compl) (fun j f ↦ by
+      simp only [TopologicalSpace.Opens.map_coe, Set.nonempty_compl, ne_eq]
+      exact SetLike.coe_injective.ne (H j f))
+    (fun j f ↦ (D.map f ⁻¹ᵁ U).2.isClosed_compl.isCompact)
+    (fun j k fkj fji x (hx : _ ∉ U) ↦ by rwa [Functor.map_comp] at hx)
+  exact absurd (hU.ge (Set.mem_univ s)) (by simpa using hs i (𝟙 i))
+
+attribute [local simp] Scheme.Hom.resLE_id Scheme.Hom.resLE_comp_resLE
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]: Is there a reason why the first one is not globally `@[simp]`?

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 4]
```diff
@@ -162,6 +189,117 @@ lemma exists_mem_of_isClosed_of_nonempty'
     (fun i ↦ Z i.left i.hom) (fun _ ↦ hZc _ _)  (fun _ ↦ hZne _ _)  (fun _ ↦ hZcpt _ _)
     (fun {i₁ i₂} f ↦ by dsimp; rw [← Over.w f]; exact hstab ..)
 
+section Opens
+
+include hc in
+/-- Let `{ Dᵢ }` be a cofiltered diagram of compact schemes with affine transition maps.
+If `U ⊆ Dⱼ` contains the image of `limᵢ Dᵢ ⟶ Dⱼ`, then it contains the image of some `Dₖ ⟶ Dⱼ`. -/
+@[stacks 01Z4 "(1)"]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]: This is similar to the 01Z4 (1), but not quite it, right? Or am I missing something?

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 5]
```diff
@@ -162,6 +189,117 @@ lemma exists_mem_of_isClosed_of_nonempty'
...
+  lift s := IsOpenImmersion.lift (Scheme.Opens.ι _)
+    ((isLimitOfPreserves (Over.forget _) (Over.isLimitConePost _ hc)).lift
+      ((Cones.postcompose (opensDiagramι D i U)).obj s)) (by
+        dsimp
+        conv_rhs => rw [← Scheme.Hom.coe_opensRange]
+        simp only [Scheme.Opens.opensRange_ι, TopologicalSpace.Opens.map_coe]
+        rintro _ ⟨x, rfl⟩
+        have := (isLimitOfPreserves (Over.forget _) (Over.isLimitConePost i hc)).fac
+          ((Cones.postcompose (opensDiagramι D i U)).obj s) (Over.mk (𝟙 i))
+        dsimp at this
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]: Do we care about non-terminal `dsimp`s?

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 6]
```diff
@@ -162,6 +189,117 @@ lemma exists_mem_of_isClosed_of_nonempty'
...
+@[simps] noncomputable
+def opensCone (i : I) (U : (D.obj i).Opens) : Cone (opensDiagram D i U) where
+  pt := c.π.app i ⁻¹ᵁ U
+  π.app j := (c.π.app j.left).resLE _ _ (by rw [← Scheme.preimage_comp, c.w]; rfl)
+
+/-- Given a diagram `{ Dᵢ }_{i ∈ I}` of schemes and a open `U ⊆ Dᵢ`,
+the preimage of `U ⊆ Dᵢ` under the map `lim Dᵢ ⟶ Dᵢ` is the limit of `{ Dⱼᵢ⁻¹ U }_{j ≤ i}`. -/
+noncomputable
+def isLimitOpensCone [IsCofiltered I] (i : I) (U : (D.obj i).Opens) :
+    IsLimit (opensCone D c i U) where
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]: Is this not a consequence of the more general fact that the inverse limit commutes with pullbacks?

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 7]
```diff
@@ -458,20 +596,274 @@ lemma Scheme.exists_hom_hom_comp_eq_comp_of_locallyOfFiniteType
...
+  obtain ⟨k, fk, hk⟩ := IsCofiltered.inf_exists (insert i <| t.image j) (by
+    exact t.attach.image fun x ↦ ⟨j x.1, i, Finset.mem_insert_of_mem
+      (Finset.mem_image_of_mem _ x.2), by simp, f x.1⟩)
+  refine ⟨k, fk (by simp), ?_⟩
+  apply (D.obj k).IsSheaf.section_ext
+  rintro x -
+  obtain ⟨l, hl, hlU⟩ := Set.mem_iUnion₂.mp (ht.ge (Set.mem_univ ((D.map (fk (by simp))).base x)))
+  refine ⟨D.map (fk (by simp)) ⁻¹ᵁ U l, le_top, hlU, ?_⟩
+  dsimp
+  simp
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]:
```suggestion
  simp only [homOfLE_leOfHom, map_zero]
```

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 8]
```diff
@@ -458,20 +596,274 @@ lemma Scheme.exists_hom_hom_comp_eq_comp_of_locallyOfFiniteType
...
+        · simp)
+    refine ⟨U, hU, hxU, j.left, j.hom, ?_⟩
+    have hf : f.left = j.hom := by simpa using Over.w f
+    convert congr(((D.obj _).presheaf.map
+      (eqToHom ((D.map j.hom ⁻¹ᵁ U).ι_image_top.symm)).op) $hj)
+    · dsimp [TopCat.Presheaf.restrictOpen, TopCat.Presheaf.restrict]
+      simp only [Scheme.Hom.app_eq_appLE, homOfLE_leOfHom, ← ConcreteCategory.comp_apply, hf,
+        Scheme.Hom.map_appLE, eqToHom_op, TopologicalSpace.Opens.map_top, Scheme.Hom.resLE_appLE]
+      erw [← ConcreteCategory.comp_apply]
+      simp
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]:
```suggestion
    let t' : Γ(D.map j.hom ⁻¹ᵁ U, ⊤) ⟶ Γ(D.obj j.left, D.map j.hom ⁻¹ᵁ U) :=
      (D.obj _).presheaf.map (eqToHom ((D.map j.hom ⁻¹ᵁ U).ι_image_top.symm)).op
    convert congr(t' $hj)
    · dsimp [TopCat.Presheaf.restrictOpen, TopCat.Presheaf.restrict]
      simp only [Scheme.Hom.app_eq_appLE, homOfLE_leOfHom, ← ConcreteCategory.comp_apply, hf,
        Scheme.Hom.map_appLE, TopologicalSpace.Opens.map_top, Scheme.Hom.resLE_appLE]
      simp [t']
```
gets rid of the `erw` by hiding the def-eq abuse inside `t'`. This is very annoying though. Maybe we should try to break the def-eq: `Γ(U, ⊤) = Γ(X, U.ι ''ᵁ ⊤)`.

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]: I think we are fine with them

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]: Yeah you are right. It's the wrong thing.

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 9]
```diff
@@ -472,6 +570,262 @@ lemma Scheme.exists_hom_hom_comp_eq_comp_of_locallyOfFiniteType
...
+    ∃ (j : I) (f : j ⟶ i), (D.map f).app U s = 0 := by
+  have : CompactSpace ↥((opensDiagram D i U).obj (Over.mk (𝟙 i))) :=
+    isCompact_iff_compactSpace.mp (by simpa)
+  have H : (D.map (𝟙 _) ⁻¹ᵁ U).ι ''ᵁ ⊤ ≤ U := by simp
+  obtain ⟨j, f, hf⟩ := exists_appTop_map_eq_zero_of_isLimit _ _
+    (isLimitOpensCone D c hc i U) (i := .mk (𝟙 i))
+    ((D.obj i).presheaf.map (homOfLE (show (D.map (𝟙 _) ⁻¹ᵁ U).ι ''ᵁ ⊤ ≤ U by simp)).op s) (by
+      rw [← map_zero (c.pt.presheaf.map (homOfLE
+        (show (c.π.app i ⁻¹ᵁ U).ι ''ᵁ ⊤ ≤ c.π.app i ⁻¹ᵁ U by simp)).op).hom, ← hs]
+      erw [← ConcreteCategory.comp_apply, ← ConcreteCategory.comp_apply]
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean]: Is there something we could do to avoid these `erw`?

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by joelriou** [comment]
bors cancel

**Comment by joelriou** [comment]
bors d+

**Review by erdOne — COMMENTED** [review]
bors merge

**Comment by erdOne** [comment]
bors merge
